US06916837B2
After dissolving 2-fluoro-5-nitrobenzoic acid (2.42 g) in toluene (30 ml), 1,1-di-tert-butoxytrimethylamine (10.6 g) was added dropwise over a period of 20 minutes while heating to reflux, and then the mixture was heated to reflux for another 30 minutes. After cooling to room temperature, washing was performed with saturated sodium bicarbonate solution and saturated saline, drying was performed over magnesium sulfate, and the solvent was distilled off. The residue was purified by silica gel chromatography (300 g, hexane:ethyl acetate=5:1) to obtain 2.48 g of t-butyl 2-fluoro-5-nitrobenzoate.

reactant | 2-fluoro-5-nitrobenzoic acid | 2.42 g | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | 1,1-di-tert-butoxytrimethylamine | 10.6 g | CC(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | t-butyl 2-fluoro-5-nitrobenzoate | 2.48 g | FC1=C(C(=O)OC(C)(C)C)C=C(C=C1)[N+](=O)[O-] | C11H12FNO4
